US07585868B2
Synthesis of 2-((3-ethoxy-4-methoxyphenyl)(hydroxy)methylene)malononitrile (ZK301).
NaH (2.2 g, 56 mmol, 60% dispersion in paraffin oil) was added to a solution of malononitrile (1.85 g, 28 mmol) in THF (30 mL) on ice. 3-ethoxy-4-methoxybenzoyl chloride (25.5 mmol) was dissolved in THF (50 mL) and added the first solution dropwise by syringe at 0° C. The ice was then removed and the reaction was allowed to proceed at RT for 60 min. 1N HCl (100 mL) was added and the solution was extracted three times with EtOAc. The organic phase was dried with MgSO4, filtered, and concentrated in vacuo to give an orange solid that was taken onto the next step without further characterization.

reactant | NaH | 56 mmol, 2.2 g | [H-].[Na+]
reactant | malononitrile | 28 mmol, 1.85 g | C(CC#N)#N | C3H2N2
reactant | 3-ethoxy-4-methoxybenzoyl chloride | 25.5 mmol | C(C)OC=1C=C(C(=O)Cl)C=CC1OC | C10H11ClO3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-((3-ethoxy-4-methoxyphenyl)(hydroxy)methylene)malononitrile | C(C)OC=1C=C(C=CC1OC)C(=C(C#N)C#N)O | C13H12N2O3
